US09085555B2
C. (1R,2S,5S)-6-Oxa-3-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 3-tert-butyl ester
A solution (1R,2S,5S)-6-oxa-3-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-benzyl ester 3-tert-butyl ester (2.62 g, 8.21 mmol) in ethyl acetate (32 mL) was hydrogenated under H2 with palladium hydroxide on carbon (1.15 g, 8.21 mmol) for 1 night. The reaction mixture was filtered over a glass fiber filter, quenched with Na2CO3 saturated aqueous solution and was extracted twice with EtOAc. The aqueous layer was acidified with HCl 1N to pH=2 and extracted 4 times with ethyl acetate, washed with brine, dried over Na2SO4, filtered and concentrated to give the desired material which was used in the next step without further purification. MS (UPLC): 230 [M+H]+, 228 [M−H]−.

reactant | (1R,2S,5S)-6-oxa-3-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-benzyl ester 3-tert-butyl ester | 8.21 mmol, 2.62 g | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]2O[C@H]2C1)C(=O)OCC1=CC=CC=C1 | C17H21NO5
solvent | ethyl acetate | 32 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide on carbon | 8.21 mmol, 1.15 g | [OH-].[OH-].[Pd+2]
product | (1R,2S,5S)-6-Oxa-3-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 3-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]2O[C@H]2C1)C(=O)O | C10H15NO5
